US05670492
To 647 mg (16.2 mmol) of 60% sodium hydride was added 20 ml of N,N-dimethylformamide, and then 20 ml of an N,N-dimethylformamide solution containing 2.38 g (10.8 mmol) of 3-hydroxy-6-iodopyridine was added thereto. The mixture was stirred in an argon atmosphere at room temperature for 2 hours. To the reaction mixture were added 2.14 g (15.12 mmol) of methyl iodide, and the mixture was stirred for 1 hour. To the reaction mixture was added a 0.01M phosphate buffer of pH7, and the solution was extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The obtained crude product was purified by silica-gel column chromatography (20 ml of silica gel, hexane:ethyl acetate=5:1 to 4:1) to give 2.57 g of 3-methoxy-6-iodopyridine (yield: 100%).

reactant | sodium hydride | 16.2 mmol, 647 mg | [H-].[Na+]
reactant | 3-hydroxy-6-iodopyridine | 10.8 mmol, 2.38 g | OC=1C=NC(=CC1)I | C5H4INO
reactant | methyl iodide | 15.12 mmol, 2.14 g | CI | CH3I
reactant | phosphate | 0.01M | P(=O)([O-])([O-])[O-]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-methoxy-6-iodopyridine | 2.57 g, yield: 100% | COC=1C=NC(=CC1)I | C6H6INO
